US07851126B2
28.61 Grams of 1,9-dibromononane and 52.46 g of triphenylphosphine were weighed out and placed in a 500-mL three-necked flask. These compounds were dissolved in 100 mL of N-methylpyrrolidone. This solution was stirred at 80° C. for 5 hours and the resultant reaction mixture was cooled to room temperature. Thereafter, the reaction mixture was poured into 500 mL of ethyl acetate kept being sufficiently stirred. The solid precipitated was collected by suction filtration and washed with 50 mL of ethyl acetate twice. The solid obtained was placed on a Petri dish and dried at room temperature under vacuum until the mass of the solid became constant. As a result, nonamethylenebis(triphenylphosphonium)dibromide was obtained as a white solid in an amount of 73 g (yield: 90%).

reactant | 1,9-dibromononane | BrCCCCCCCCCBr | C9H18Br2
reactant | triphenylphosphine | 52.46 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | N-methylpyrrolidone | 100 mL | CN1C(CCC1)=O | C5H9NO
product | nonamethylenebis(triphenylphosphonium)dibromide | yield: 90% | [Br-].[Br-].C1(=CC=CC=C1)[P+](CCCCCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C45H48P2.2BrH/c1(2-4-24-38-46(40-26-12-6-13-27-40,41-28-14-7-15-29-41)42-30-16-8-17-31-42)3-5-25-39-47(43-32-18-9-19-33-43,44-34-20-10-21-35-44)45-36-22-11-23-37-45;;/h6-23,26-37H,1-5,24-25,38-39H2;2*1H/q+2;;/p-2
